US06830859B2
268 Grams of 5-sulfoisophthalic acid sodium salt were placed together with 1600 g of ion exchanged water in a reactor equipped with a stirrer. The contents in the reactor were heated with stirring to 80° C. so that the sodium salt was dissolved in water. A solution of barium chloride dissolved in an amount of 104 g into 900 ml of ion exchanged water was then gradually added dropwise to the thus obtained solution. The resulting mixture was cooled to 30° C. and filtered to separate white precipitates. The precipitates were dispersed in 3000 g of ion exchanged water. The dispersion was heated to 80° C., maintained at that temperature for 1 hour, cooled to 30° C. and then filtered. The precipitates were washed with water. Such a procedure including dispersion, heating, filtration and washing steps was repeated once more. The thus obtained precipitates were dried at 120° C. for 5 hours to obtain 265 g of 5-sulfoisophthalic acid barium salt as a white powder. The atomic absorption analysis revealed that the 5-sulfoisophthalic acid barium salt powder contained 21.9% by weight of barium and 120 ppm by weight of sodium.

reactant | 5-sulfoisophthalic acid sodium salt | [Na+].S(=O)(=O)(O)C=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-].[Na+]
reactant | sodium | [Na] | Na
reactant | barium chloride | [Cl-].[Ba+2].[Cl-]
solvent | water | O | H2O
product | 5-sulfoisophthalic acid barium salt | 265 g | [Ba+2].S(=O)(=O)(O)C=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-] | InChI=1S/C8H6O7S.Ba/c9-7(10)4-1-5(8(11)12)3-6(2-4)16(13,14)15;/h1-3H,(H,9,10)(H,11,12)(H,13,14,15);/q;+2/p-2
